US07855290B2
3-[4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea
3-[4-(2-Fluoro-4-nitrophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea (243 mg) was dissolved in tetrahydrofuran (6 ml)-methanol (6 ml), and 10% palladium on carbon (128 mg) was added thereto, followed by stirring under a hydrogen atmosphere for 3 hr. The atmosphere in the reaction vessel was replaced with nitrogen, and the catalyst was removed by filtration and washed with methanol. The filtrate was concentrated under reduced pressure, and the resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate) and concentrated under reduced pressure to provide the titled compound as pale yellow powder (175 mg, 78.0%).

reactant | 3-[4-(2-Fluoro-4-nitrophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | 243 mg | FC1=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=CC(=C1)[N+](=O)[O-] | C19H22FN5O4
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
catalyst | palladium on carbon | 128 mg | [Pd] | Pd
product | 3-[4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | 175 mg, 78.0% | NC1=CC(=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=C1)F | C19H24FN5O2
